US06544985B2
[2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(2,2.2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester (Example J21) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example K3) according to the general procedure M. Obtained as a light brown solid (262 mg).

reactant | [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)N)=O | C14H16F6N2O3
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | [2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(2,2.2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C23H20F6N4O5
